************
*$
.SUBCKT CD4066B IN OUT CNTRL VDD VSS
*Analog Switch In Out Control Vdd Vss
S1 IN OUT CNTRL VSS CD4066_SW
.MODEL CD4066_SW VSWITCH (ROFF=10E9 RON=125)
.ENDS
*$
.SUBCKT CD4066_INVERT 1 2 3 4
* Inverter In Out Vcc Vss
M1 2 1 3 3 CD49P
M2 2 1 4 4 CD49N
.MODEL CD49P PMOS (LEVEL=1
+ VTO=-2.9 KP=2M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=28.2
+ RS=45.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N
+ CGDO=26N CGBO=42.8N)
.MODEL CD49N NMOS (LEVEL=1
+ VTO=2.1 KP=5M GAMMA=3.97U
+ PHI=.75 LAMBDA=1.87M RD=4.2
+ RS=4.2 IS=31.2F PB=.8 MJ=.46
+ CBD=21.2P CBS=25.4P CGSO=31.2N
+ CGDO=26N CGBO=42.8N)
.ENDS
********
*$
